US08227615B2
Preparation of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-(2-methoxyphenylamino)pyridin-2-yl)cyclopropanecarboxamide
1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-iodopyridin-2-yl)cyclopropanecarboxamide (816 mg, 0.200 mmol) was suspended in 1,4-dioxane (0.4 mL) and triethylamine (0.2 mL) containing cesium carbonate (91.2 mg, 0.0280 mmol), tris(dibenzylideneacetone)dipalladium (0) (1.8 mg, 0.0020 mmol), 2-methoxyaniline (0.027 mL, 0.24 mmol), and (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (XANTPHOS, 2.3 mg, 0.0040 mmol). The reaction mixture was heated to 100° C. for 15 hours. The crude product was then filtered, evaporated to dryness, dissolved in N,N-dimethylformamide (1 mL) and purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield the pure product (2.6 mg, 0.0049, 2.4%). ESI-MS m/z calc. 403.2, found 404.5 (M+1)+. Retention time 2.73 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-iodopyridin-2-yl)cyclopropanecarboxamide | 0.200 mmol, 816 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)I | C16H13IN2O3
reactant | cesium carbonate | 0.0280 mmol, 91.2 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-methoxyaniline | 0.24 mmol, 0.027 mL | COC1=C(N)C=CC=C1 | C7H9NO
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.0040 mmol, 2.3 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | 1,4-dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0020 mmol, 1.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-(2-methoxyphenylamino)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)NC2=C(C=CC=C2)OC | C23H21N3O4
